US08937167B2
Under nitrogen atmosphere N,N-diisopropylethylamine (0.390 g, 3 mmol) was added to the solution of 5-bromothiophene-3-carboxylic acid (0.207 g, 1 mmol) and diphenylphosphoryl azide (DPPA) (0.330 g, 1.2 mmol) in dioxane (5 ml) at rt. After stirring for 30 min, the mixture was heated at 85 for 1.5 h. After the mixture cooled down to rt, 0.5 M of ammonia solution in dioxane (12 ml) was added. 30 min's later, the solvents was removed and the resulting residue was purified by silica gel chromography with CH2Cl2/MeOH combinations to give (5-bromo-3-thienyl)urea (0.072 g) in 32% yield. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.80 (s, 1H), 7.09 (s, 2H), 5.87 (s, 2H). MS (ESI): found [M+H]+, 223.0.

reactant | N,N-diisopropylethylamine | 3 mmol, 0.390 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-bromothiophene-3-carboxylic acid | 1 mmol, 0.207 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | diphenylphosphoryl azide | 1.2 mmol, 0.330 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ammonia | 0.5 M | N | H3N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | (5-bromo-3-thienyl)urea | 0.072 g, 32% yield | BrC1=CC(=CS1)NC(=O)N | C5H5BrN2OS
